US06313094B1
[Process 2] Boc-Pro-Aib-NH2
Deprotection of 100 mg of the compound obtained by the process 1 was performed similarly to that in Example 28 (Process 3), and the obtained product was dissolved in 3 ml of DMF and neutralized with 68 μl of triethylamine under ice cooling. To the neutralized solution, 107 mg of Boc-Pro-OH, 237 mg of Bop reagent and 137 μl of triethylamine were added and the resultant mixture was stirred for 2 hr. The reaction mixture was treated similarly to that in Example 86 (Process 3) to give 35 mg of the title compound.

reactant | Boc-Pro-OH | 107 mg | N1([C@H](C(=O)O)CCC1)C(=O)OC(C)(C)C | C10H17NO4
reactant | Bop reagent | 237 mg | CN(C)[P+](N(C)C)(N(C)C)ON1C2=C(C=CC=C2)N=N1.F[P-](F)(F)(F)(F)F
reactant | DMF | 3 ml | CN(C)C=O | C3H7NO
solvent | triethylamine | 68 μl | C(C)N(CC)CC | C6H15N
solvent | triethylamine | 137 μl | C(C)N(CC)CC | C6H15N
product | Boc-Pro-Aib-NH2 | 35 mg | N1([C@H](C(=O)NC(C)(C)C(=O)N)CCC1)C(=O)OC(C)(C)C | C14H25N3O4
